US06723735B1
6-(Furan-3-yl)-3-[3-(pyridin-3-yl)phenyl]-3H-imidazo[4,5-b]pyridine
A suspension of 6-bromo-3-[3-(pyridin-3-yl)phenyl]-3H-imidazo[4,5-b]pyridine (351 mg, 1 mmol), 3-furanboronic acid (168 mg, 1.5 mmol), tetrakis(triphenylphosphine)palladium(0) (25 mg) and 1,3-propanediol (360 μl, 5 mmol) in 1,2-dimethoxyethane (6 ml) and 2M sodium carbonate solution (3 ml) was heated at 90° C. for 16 hours. The reaction was cooled and partitioned between ethyl acetate (50 ml) and water (50 ml). The organic layer was then washed with brine, dried over anhydrous sodium sulphate, filtered and pre-adsorbed on to silica. Purification by silica gel chromatography eluting with dichloromethane/methanol/0.88 NH3 (95:4.5:0.5) furnished the title compound as a cream-coloured solid (208 mg, 62%), m.p. 191-192° C. (Found C, 73.13; H, 3.93; N, 16.01. C21H14N4O. 0.4H2O requires C, 72.99; H, 4.32; N, 16.21); δH (400 MHz, d6-DMSO) 7.17 (1H, s), 7.54-7.57 (1H, m), 7.74-7.85 (3H, m), 8.09 (1H, d, J 8), 8.22 (1H, d, J 8), 8.35 (2H, d, J 6), 8.50 (1H, s), 8.63 (1H, d, J 4), 8.80 (1H, s), 9.05 (1H, s), 9.07 (1H, s); m/z (ES+) 339 (M++H).

reactant | 6-bromo-3-[3-(pyridin-3-yl)phenyl]-3H-imidazo[4,5-b]pyridine | 1 mmol, 351 mg | BrC=1C=C2C(=NC1)N(C=N2)C2=CC(=CC=C2)C=2C=NC=CC2 | C17H11BrN4
reactant | 3-furanboronic acid | 1.5 mmol, 168 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | 1,3-propanediol | 5 mmol, 360 μl | C(CCO)O | C3H8O2
solvent | 1,2-dimethoxyethane | 6 ml | COCCOC | C4H10O2
solvent | sodium carbonate | 2M, 3 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(Furan-3-yl)-3-[3-(pyridin-3-yl)phenyl]-3H-imidazo[4,5-b]pyridine | 208 mg, 62% | O1C=C(C=C1)C=1C=C2C(=NC1)N(C=N2)C2=CC(=CC=C2)C=2C=NC=CC2 | C21H14N4O
